US07160893B2
Step (A): 4-(4-Chloro-5-methyl-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-ylmethyl)-benzoic acid tert-butyl ester
5-Methyl-6-chloropyrimidine-2,4-dione (1.00 g, 6.22 mmol) was dissolved in dimethylformamide (15 mL).To the solution was added cesium carbonate (2.02 g, 6.22 mmol) and t-butyl 4-bromomethylbenzoate (1.69 g, 6.22 mmol). The mixture was stirred at room temperature for 20 hours. The solvent was evaporated under a vacuum at 60° C. The residue was mixed with tetrahydrofuran (50 mL) and methanol (10 mL) and filtered. The filtrate was evaporated in a vacuum to an amber oil. The oil was purified by flash chromatography on silica gel eluting first with dichloromethane then with dichloromethane:methanol (19:1) to give the desired product (0.88 g, 40% yield). 1H-NMR (DMSO-d6) δ 11.8 (s, 1H), 7.85 (d, 2H), 7.34 (d, 2H), 5.22 (s, 2H), 1.88 (s, 3H), 1.51 (s, 9H).

reactant | 5-Methyl-6-chloropyrimidine-2,4-dione | 6.22 mmol, 1.00 g | CC=1C(NC(NC1Cl)=O)=O | C5H5ClN2O2
reactant | cesium carbonate | 6.22 mmol, 2.02 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | t-butyl 4-bromomethylbenzoate | 6.22 mmol, 1.69 g | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
reactant | dichloromethane methanol | ClCCl.CO
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-(4-Chloro-5-methyl-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-ylmethyl)-benzoic acid tert-butyl ester | 0.88 g, 40% yield | C(C)(C)(C)OC(C1=CC=C(C=C1)CN1C(NC(=C(C1=O)C)Cl)=O)=O | C17H19ClN2O4
